US08034812B2
Production of N-[6-(3-{[(ethylamino)carbonyl]amino}phenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide
To a solution of N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (160 mg, 0.517 mmol) in pyridine (4.0 mL) was added ethyl isocyanate (409 μL, 5.17 mmol), and the mixture was stirred at room temperature for 24 hr. The solvent was evaporated under reduced pressure, ethyl acetate and saturated aqueous sodium hydrogencarbonate solution were added to the residue, and the aqueous layer was extracted three times with ethyl acetate. Combined organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was filtrated, and washed with ethyl acetate/hexane to give the title compound (136 mg, 69%) as a white powder.

reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.517 mmol, 160 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
reactant | ethyl isocyanate | 5.17 mmol, 409 μL | C(C)N=C=O | C3H5NO
solvent | pyridine | 4.0 mL | N1=CC=CC=C1 | C5H5N
product | N-[6-(3-{[(ethylamino)carbonyl]amino}phenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 136 mg, 69% | C(C)NC(=O)NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C19H20N6O3
